US07666888B2
6,7-Dimethoxy-2-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-1,2,3,4-tetrahydroisoquinoline
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (10 mg, 0.045 mmol) in dichloromethane (1 mL) was added 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (11 mg, 0.052 mmol, 1.2 eq.), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C22H22N2O4: 378.1580, found 378.1585.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.045 mmol, 10 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.052 mmol, 11 mg, 1.2 eq. | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 6,7-Dimethoxy-2-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN(CC2=CC1OC)C(=O)C=1C=NOC1C1=CC=C(C=C1)C | C22H22N2O4
